US07994189B2
a) (5-Fluoro-2-nitro-phenyl)-methanol
To a solution of 5-fluoro-2-nitrobenzoic acid (4.58 g) in THF (50 ml) was added a 1 M solution of BH3.THF in THF (62 ml) while cooling with an ice-bath. The cooling bath was removed and stirring was continued for 1 h at ambient temperature, followed by refluxing for 4 h. The reaction mixture was cooled and MeOH was added to destroy the excess of borane. The mixture was concentrated and water and ethyl acetate were added to the residue. The organic layer was washed with brine, dried and concentrated. Yield: 4.3 g.

reactant | 5-fluoro-2-nitrobenzoic acid | 4.58 g | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
reactant | BH3.THF | B.C1CCOC1
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 62 ml | C1CCOC1 | C4H8O
product | (5-Fluoro-2-nitro-phenyl)-methanol | FC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C7H6FNO3
